US07071175B1
Triphenylphosphine (7.43 g, 28.3 mmol) and CBr4 (9.49 g, 28.6 mmol) was added to a solution of 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-3-methylpyridin (8.00 g, 23.6 mmol) in dichloromethane (220 mL) at 0° C. The reaction mixture was stirred for 3 h and was then concentrated under reduced pressure. Flash chromatography (hexane/EtOAc, 80:20) gave 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methylpyridin (8.0 g,77%).

reactant | Triphenylphosphine | 28.3 mmol, 7.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 28.6 mmol, 9.49 g | C(Br)(Br)(Br)Br | CBr4
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-3-methylpyridin | 23.6 mmol, 8.00 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)CO | C17H26N2O5
solvent | dichloromethane | 220 mL | ClCCl | CH2Cl2
product | 5-bromomethyl-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methylpyridin | 8.0 g, 77% | BrCC=1C=C(C(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C17H25BrN2O4
